* FILE: INVX1.sp


* SPICE netlist for "INVX1" generated by MMI_SUE5.6.37 on Mon Jan 24 
*+ 11:57:27 CST 2022.

.SUBCKT INVX1 A Y 
M_1 Y A vdd vdd pshort W='2u*1u' L=0.150u ad='areap(2u,sdd)' 
+ as='areap(2u,sdd)' pd='perip(2u,sdd)' ps='perip(2u,sdd)' 
M_2 Y A vdd vdd pshort W='2u*1u' L=0.150u ad='areap(2u,sdd)' 
+ as='areap(2u,sdd)' pd='perip(2u,sdd)' ps='perip(2u,sdd)' 
M_3 Y A gnd gnd nshort W='3u*1u' L=0.150u ad='arean(3u,sdd)' 
+ as='arean(3u,sdd)' pd='perin(3u,sdd)' ps='perin(3u,sdd)' 
.ENDS	$ INVX1

.GLOBAL gnd vdd

